US05112817
7-Hydroxy-6-methylquinoline:
In 50 ml of acetone were dissolved 5.04 g of diphenylmethylpiperazine and 5.5 g of epichlorohydrin, and 4.2 ml of triethylamine was then added thereto.

reactant | diphenylmethylpiperazine | 5.04 g | C1(=CC=CC=C1)C(C1=CC=CC=C1)N1CCNCC1 | C17H20N2
reactant | epichlorohydrin | 5.5 g | C(Cl)C1CO1 | C3H5ClO
reactant | triethylamine | 4.2 ml | C(C)N(CC)CC | C6H15N
solvent | acetone | 50 ml | CC(=O)C | C3H6O
product | 7-Hydroxy-6-methylquinoline | OC1=C(C=C2C=CC=NC2=C1)C | C10H9NO
